US07544688B2
A. 4-Benzyl-1-prop-2-ynyl-piperazine-2,6-dione
To a suspension of N-benzyliminodiacetic acid (10 mmol) in THF (30 ml), 1,1′-carbonyldiimidazole (22 mmol) is added with stirring. The reaction mixture is refluxed with stirring for 15 minutes. Propargylamine (100 mmol) is added and then reaction mixture is stirred at 90° C. for 1 day. The organic solvent is evaporated and then the residue is dissolved in AcOEt. The organic layer is washed with 2×100 ml 0.1N HCl and then dried over sodium sulfate. The solvent is concentrated under vacuum. The purification of the residue by silica gel column chromatography affords 1.5 g of title compound in 62% yield. Rf=0.24 (n-hexane:AcOEt=3:1)

reactant | N-benzyliminodiacetic acid | 10 mmol | C(C1=CC=CC=C1)N(CC(=O)O)CC(=O)O | C11H13NO4
reactant | 1,1′-carbonyldiimidazole | 22 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Propargylamine | 100 mmol | C(C#C)N | C3H5N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-Benzyl-1-prop-2-ynyl-piperazine-2,6-dione | 1.5 g, 62% yield | C(C1=CC=CC=C1)N1CC(N(C(C1)=O)CC#C)=O | C14H14N2O2
